US07291619B2
(S)-1-{2-[1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-phenyl}-piperazine
To a 25 mL flask containing (S)-(−)-2-bromo-alpha-methylbenzyl alcohol (200 mg, 1.0 mmol), tert-butyldimethylsilyl chloride (165 mg, 1.1 mmol), and imidazole (203 mg, 3.0 mmol) flushed with nitrogen was added 5 mL of dimethylformamide. After stirring overnight, the mixture was quenched with saturated sodium bicarbonate, diluted with ethyl acetate, washed with NaH2PO4, saturated aqueous sodium bicarbonate, water, brine, dried (Na2SO4), filtered, and concentrated. Purification by flash chromatography (10 g SiO2, linear gradient 0-10% ethyl acetate/Hexanes, 30 mL/minute, over 30 minutes) gave about 260 mg (0.82 mmol, 82%) of (5)-[1-(2-Bromo-phenyl)-ethoxy]-tert-butyl-dimethyl-silane as a colorless oil. GC/MS (EI): 315 (M). The (5)-[1-(2-Bromo-phenyl)-ethoxy]-tert-butyl-dimethyl-silane was coupled to piperazine in a manner similar to Preparation 1A. LRMS (ESI+): 321.5 (M+1)

reactant | (5)-[1-(2-Bromo-phenyl)-ethoxy]-tert-butyl-dimethyl-silane | BrC1=C(C=CC=C1)[C@H](C)O[Si](C)(C)C(C)(C)C | C14H23BrOSi
reactant | piperazine | N1CCNCC1 | C4H10N2
product | (S)-1-{2-[1-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-phenyl}-piperazine | C(C)(C)(C)[Si](O[C@@H](C)C1=C(C=CC=C1)N1CCNCC1)(C)C | C18H32N2OSi
